US04442101
About 10 g of AT-2266.hydrochloride was dissolved to hot water (about 70° C.) and the solution was neutralized with 15% aqueous solution of sodium hydroxide which was warmed to 70° C. previously. The precipitate was collected by filtration and dried at 70° to 80° C. for elimination of adhering water to give the AT-2266.sesquihydrate.

reactant | AT-2266.hydrochloride | 10 g | CCN1C=C(C(=O)C2=C1N=C(C(=C2)F)N3CCNCC3)C(=O)O.Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | AT-2266 | CCN1C=C(C(=O)C2=C1N=C(C(=C2)F)N3CCNCC3)C(=O)O | C15H17FN4O3
